US05324833
Z-Asn(Trt)-OH
A mixture of 13.3 g of Z-Asn-OH (50 mmol), 26 g of triphenylmethanol (100 mmol), 150 ml of acetic acid and 9.5 ml (100 mmol) of acetic anhydride is stirred at 50° for 15 minutes. Addition of 0.25 ml of conc. sulfuric acid produces, after 5 minutes, a clear yellow solution. After 11/2 hours, it is cooled and poured into 1.5 liters of ice-water. The precipitate is filtered off, thoroughly washed with water and dissolved in about 500 ml of ethyl acetate. The organic phase is washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure to 250 g. Z-Asn(Trt)-OH is induced to crystallize by addition of 125 ml of hexane, m.p. 195°-196°.

reactant | Z-Asn-OH | 50 mmol, 13.3 g | N([C@@H](CC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C12H14N2O5
reactant | triphenylmethanol | 100 mmol, 26 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | acetic anhydride | 100 mmol, 9.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.25 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | Z-Asn(Trt)-OH | N([C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C31H28N2O5
